US09388176B2
7-Benzyl-5,6,7,8-tetrahydro-[2,7]-naphthyridine-4-carbonitrile
A mixture of 7-benzyl-1,3-dichloro-5,6,7,8-tetrahydro-[2,7]-naphthyridine-4-carbonitrile (70 g, 0.22 mol) and triethylamine (70 mL) in methanol (1 L) was placed in a 2.5 L hydrogenation bottle and hydrogenated over 10% Pd/C (15 g) for 3 hr. The reaction mixture was filtered to remove catalyst. The catalyst on filter paper was washed with methanol (100 mL). The filtrate was concentrated under reduced pressure to give an oil. The oil was dissolved in dichloromethane (500 mL), washed with water (2×200 mL), brine (200 mL), dried over anhydrous magnesium sulfate (10 g), filtered and concentrated under reduced pressure to give an oil. The oil was placed under high vacuum line overnight to give the title compound (48.5 g, 88%). 1H NMR 60 MHz, (CDCl3), δ 8.5 (s, 1H), 8.3 (s, 1H), 7.3 (s, 5H), 3.7 (s, 2H), 3.6 (s, 2H), 2.8 (m, 4H).

reactant | 7-benzyl-1,3-dichloro-5,6,7,8-tetrahydro-[2,7]-naphthyridine-4-carbonitrile | 0.22 mol, 70 g | C(C1=CC=CC=C1)N1CCC=2C(=C(N=C(C2C1)Cl)Cl)C#N | C16H13Cl2N3
reactant | triethylamine | 70 mL | C(C)N(CC)CC | C6H15N
solvent | methanol | 1 L | CO | CH4O
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
catalyst | Pd/C | 15 g | [Pd] | Pd
product | 7-Benzyl-5,6,7,8-tetrahydro-[2,7]-naphthyridine-4-carbonitrile | 48.5 g, 88% | C(C1=CC=CC=C1)N1CCC=2C(=CN=CC2C1)C#N | C16H15N3
